US08314091B2
C: N-tert-Butyl-3-(1-hydroxy-2-methylpropyl)benzamide
A mixture of 3-(1-hydroxy-2-methylpropyl)benzoic acid (677 mg, 3.49 mmol), O-(7-azabenzotriazol-1-yl)-N,N,N,N-tetramethyl uronium hexafluorophosphate (1.73 g, 4.54 mmol), N-ethyl-N-isopropylpropan-2-amine (1.21 mL, 6.97 mmol) and tert-butylamine (510 mg, 6.97 mmol) in N,N-dimethylformamide (12.0 mL) was subjected to microwave irradiation at 100° C. for 10 minutes. The reaction mixture was concentrated under vacuum and purified with silica column chromatography (eluting with 9% to 33% ethyl acetate in heptane) to afford the title compound (718 mg). MS (ESI) m/z 250.4 [M+H]+

reactant | 3-(1-hydroxy-2-methylpropyl)benzoic acid | 3.49 mmol, 677 mg | OC(C(C)C)C=1C=C(C(=O)O)C=CC1 | C11H14O3
reactant | N-ethyl-N-isopropylpropan-2-amine | 6.97 mmol, 1.21 mL | C(C)N(C(C)C)C(C)C | C8H19N
reactant | tert-butylamine | 6.97 mmol, 510 mg | C(C)(C)(C)N | C4H11N
solvent | N,N-dimethylformamide | 12.0 mL | CN(C=O)C | C3H7NO
product | N-tert-Butyl-3-(1-hydroxy-2-methylpropyl)benzamide | 718 mg | C(C)(C)(C)NC(C1=CC(=CC=C1)C(C(C)C)O)=O | C15H23NO2
